US08492582B2
Trifluoroacetic acid (2.0 mL) was added to the obtained tert-butyl 2-(5-(1-ethylpiperidin-4-yl)-2-hydroxybenzamido)-4-phenylbenzoate (0.040 g), followed by stirring at room temperature for 3 hours. The solvent was evaporated under reduced pressure, and methanol and water were added to the residue. After adjusting the pH to 6.0 with a saturated aqueous solution of sodium bicarbonate, the solid substance was collected from the reaction mixture by filtration to obtain 5.0 mg of 2-(5-(1-ethylpiperidin-4-yl)-2-hydroxybenzamido)-4-phenylbenzoic acid as a white solid.

reactant | Trifluoroacetic acid | 2.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 2-(5-(1-ethylpiperidin-4-yl)-2-hydroxybenzamido)-4-phenylbenzoate | 0.040 g | C(C)N1CCC(CC1)C=1C=CC(=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C1)O | C31H36N2O4
product | 2-(5-(1-ethylpiperidin-4-yl)-2-hydroxybenzamido)-4-phenylbenzoic acid | 5.0 mg | C(C)N1CCC(CC1)C=1C=CC(=C(C(=O)NC2=C(C(=O)O)C=CC(=C2)C2=CC=CC=C2)C1)O | C27H28N2O4
